US07683064B2
2-(2-(tert-Butyl-dimethyl-silanyloxymethyl)-3-{1-methyl-5-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-6-oxo-1,6-dihydro-pyridin-3-yl}-phenyl)-6-cyclopropyl-2H-isoquinolin-1-one (56 mg, 0.078 mmol) was dissolved in 3 mL anhydrous THF. Added a 1.0 M solution of tetrabutylammonium fluoride (466 μL, 466 mmol) in THF and stirred at room temperature for 15 min. Partitioned the reaction mixture between 8 mL of water and 10 mL of CH2Cl2 and separated phases. Washed the organic phase with 8 mL of 1.0 M KHSO4 and 8 mL of saturated aqueous NaHCO3. Dried over Na2SO4 and concentrated in vacuo. Purified by C18 reverse phase flash chromatography (gradient elution, 10 to 95% acetonitrile+0.1% TFA/water+0.1% TFA). Added 1 mL of saturated NaHCO3 to the pooled product fractions and concentrated in vacuo. Extracted the remaining aqueous mixture with 2×10 mL CH2Cl2, dried over Na2SO4, and concentrated in vacuo to obtain 6-Cyclopropyl-2-(2-hydroxymethyl-3-{1-methyl-5-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-6-oxo-1,6-dihydro-pyridin-3-yl}-phenyl)-2H-isoquinolin-1-one as an off-white solid. (29 mg, 0.048 mmol). MS (ESI) 604 (M+H)+.

reactant | 2-(2-(tert-Butyl-dimethyl-silanyloxymethyl)-3-{1-methyl-5-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-6-oxo-1,6-dihydro-pyridin-3-yl}-phenyl)-6-cyclopropyl-2H-isoquinolin-1-one | 0.078 mmol, 56 mg | C(C)(C)(C)[SiH2]OC(C1=C(C=CC=C1C1=CN(C(C(=C1)NC1=NC=C(C=C1)C(=O)N1CCOCC1)=O)C)N1C(C2=CC=C(C=C2C=C1)C1CC1)=O)(C)C | C41H47N5O5Si
reactant | tetrabutylammonium fluoride | 466 mmol, 466 μL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 6-Cyclopropyl-2-(2-hydroxymethyl-3-{1-methyl-5-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-6-oxo-1,6-dihydro-pyridin-3-yl}-phenyl)-2H-isoquinolin-1-one | C1(CC1)C=1C=C2C=CN(C(C2=CC1)=O)C1=C(C(=CC=C1)C1=CN(C(C(=C1)NC1=NC=C(C=C1)C(=O)N1CCOCC1)=O)C)CO | C35H33N5O5
